US08293758B2
2-Fluoro-N,N-dimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine (Example No. 19, Mon-polar Diastereomer and Example No. 20, Average Diastereomer and Example No. 21, Polar Diastereomer)
(±)-4-dimethylamino-2-fluoro-4-phenylcyclohexanone (1.61 g, 6.83 mmol, mixture of both diastereoisomers, mainly polar diastereoisomer) together with tryptophol (1.10 g, 6.83 mmol) was dissolved in absolute dichloromethane (75 ml) at 0° C. (inside temperature). Trimethylsilyl triflate (1.67 g, 7.51 mmol, 1.36 ml, 1.225 g/ml) was then added quickly in drops to absolute dichloromethane (10 ml). The reaction mixture immediately changed colour from yellow to red-brown. The reaction mixture was stirred for 5 h at room temperature and became cloudy during this. 5N sodium hydroxide solution (100 ml) was added to the reaction mixture and stirred for 10 min. After phase separation the aqueous phase was extracted with dichloromethane (4×50 ml). The combined organic phases were dried over sodium sulphate, filtered and then completely freed of volatile constituents in a vacuum. An attempt was made to separate the residue by chromatography [silica gel (150 g), chloroform/ethanol 50:1 (500 ml), 19:1 (500 ml), 9:1 (1000 ml), 1:1 (500 ml), methanol (1000 ml)]. 467 mg (1.23 mmol, 18%, mp 259-263° C.) of a more non-polar diastereomer, 506 mg (1.34 mmol, 20%, mp 217-222° C.) of a diastereomer of average polarity and 168 mg (0.44 mmol, 6%, mp 245-247° C.) of a more polar diastereoisomer were isolated. The individual fractions were recrystallised from methanol.

reactant | (±)-4-dimethylamino-2-fluoro-4-phenylcyclohexanone | CN(C1(CC(C(CC1)=O)F)C1=CC=CC=C1)C | C14H18FNO
reactant | tryptophol | 6.83 mmol, 1.10 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | Trimethylsilyl triflate | 7.51 mmol, 1.36 ml, 1.67 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | sodium hydroxide | 5N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Fluoro-N,N-dimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine | FC1CC(CCC12OCCC1=C2NC2=CC=CC=C12)(N(C)C)C1=CC=CC=C1 | C24H27FN2O
